US09403845B2
To a suspension of EtONH2.HCl (1.05 g, 10.8 mmol) in pyridine (5 ml) was added 6-bromo-4-hydroxy-1H-1,5-naphthyridin-2-one (324 mg, 1.34 mmol) and stirring was continued for 17 h at 100° C. The mixture was allowed to cool to ambient temperature then water and ethyl acetate were added followed by separation of phases. The aqueous phase was extracted with ethyl acetate and the combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography eluting with ethyl acetate/MeOH, gradient, afforded 6-bromo-4-(ethoxyamino)-1H-1,5-naphthyridin-2-one.

reactant | EtONH2.HCl | 10.8 mmol, 1.05 g | C(C)ON.Cl
reactant | 6-bromo-4-hydroxy-1H-1,5-naphthyridin-2-one | 1.34 mmol, 324 mg | BrC=1N=C2C(=CC(NC2=CC1)=O)O | C8H5BrN2O2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-bromo-4-(ethoxyamino)-1H-1,5-naphthyridin-2-one | BrC=1N=C2C(=CC(NC2=CC1)=O)NOCC | C10H10BrN3O2
